US06350761B1
To 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-nitro-N-(3-(3-cyanophenyl)prop-2-en-1-yl)benzenamine (0.39 g) and K2CO3 (0.56 g) in DMF was added methyl bromoacetate. The mixture was stirred at 55° C. for 6 hours. The reaction was cooled, diluted with water and extracted with ethyl acetate (3×). The organic layer was concentrated and purified on silica gel column to afford 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-nitro-N-(methoxycarbonylmethyl)-N-(3-(3-cyanophenyl)prop-2-en-1-yl)benzenamine (0.15 g).

reactant | 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-nitro-N-(3-(3-cyanophenyl)prop-2-en-1-yl)benzenamine | 0.39 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NCC=CC1=CC(=CC=C1)C#N)[N+](=O)[O-] | C26H30N4O5
reactant | K2CO3 | 0.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(N′-(t-butoxycarbonyl)piperidin-4-yl)oxy-3-nitro-N-(methoxycarbonylmethyl)-N-(3-(3-cyanophenyl)prop-2-en-1-yl)benzenamine | 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1)C#N)CC(=O)OC)[N+](=O)[O-] | C29H34N4O7
